US08026234B2
Compound 100: 4-(9-cyclopentyl-7-fluoro-5-methyl-6-oxo-7-vinyl-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-3-methoxy-N-(1-methylazetidin-3-yl)benzamide
The title compound was synthesized from 4-(9-cyclohexyl-7-fluoro-7-vinyl-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[5,4-b][1,4]diazepin-2-ylamino)-3-methoxybenzoic acid as described in the General procedure for amide bond synthesis using HATU and 1-methylazetidin-3-amine bis-hydrochloride. 1H NMR (400 MHz, DMSO-d6) δ ppm 1.48-2.10 (m, 8H) 2.32 (br. s., 3H) 3.08 (t, J=6.82 Hz, 2H) 3.29 (br. s., 3H) 3.62 (t, J=6.95 Hz, 2H) 3.82 (m, 2H) 3.94 (br. s., 3H) 4.44 (m, 1H) 4.88 (m, 1H) 5.38 (d, J=12.13 Hz, 2H) 5.99 (m, 1H) 7.50 (br. s., 2H) 7.84 (br. s., 1H) 8.13 (br. s., 1H)) 8.31 (d, J=8.0 Hz, 1H) 8.65 (d, J=7.83 Hz, 1H). [M+H] calculated for C27H34FN7O3, 524. found 524.

reactant | 4-(9-cyclohexyl-7-fluoro-7-vinyl-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[5,4-b][1,4]diazepin-2-ylamino)-3-methoxybenzoic acid | C1(CCCCC1)N1C2=C(N(C(C(C1)(C=C)F)=O)C)C=NC(=N2)NC2=C(C=C(C(=O)O)C=C2)OC | C24H28FN5O4
reactant | HATU | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 1-methylazetidin-3-amine bis-hydrochloride | Cl.Cl.CN1CC(C1)N
product | 4-(9-cyclopentyl-7-fluoro-5-methyl-6-oxo-7-vinyl-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-3-methoxy-N-(1-methylazetidin-3-yl)benzamide | C1(CCCC1)N1C2=C(N(C(C(C1)(C=C)F)=O)C)C=NC(=N2)NC2=C(C=C(C(=O)NC1CN(C1)C)C=C2)OC | C27H34FN7O3
